US08703810B2
A solution of 1-(2-((tert-butyldimethylsilyl)oxy)ethyl)azocane (9.13 g, 33.7 mmol) and TBAF (1M in THF, 36 mmol) was stirred at room temperature overnight. The mixture was concentrated and purified on a silica gel column (eluting with DCM/MeOH=30/1˜50/1) to afford 2-(azocan-1-yl)ethanol (1.96 g, 37%). 1H NMR (DMSO-d6): δ 4.33 (br s, 1H), 3.45 (t, 2H), 2.53 (m, 6H), 1.54 (m, 10H); LCMS: 158 (M+H)+.

reactant | 1-(2-((tert-butyldimethylsilyl)oxy)ethyl)azocane | 33.7 mmol, 9.13 g | [Si](C)(C)(C(C)(C)C)OCCN1CCCCCCC1 | C15H33NOSi
reactant | TBAF | 36 mmol, 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 2-(azocan-1-yl)ethanol | 1.96 g, 37% | N1(CCCCCCC1)CCO | C9H19NO
